US04010166
The starting material is prepared as follows. The solution of 3.4 g of 2-(3-amino-1,1-diphenylpropoxy)-acetaldehyde diethyl acetal, 1.5 g of triethylamine and 35 ml of methylene chloride is stirred and cooled in an ice bath during the dropwise addition of the solution of 1.05 g of cyclopropane carboxylic acid chloride in 15 ml of methylene chloride. Upon stirring subsequently for 1/2 hour at 0°-5° C, the solution is washed successively with 2N aqueous sodium hydroxide and saturated aqueous sodium chloride, dried and evaporated, to yield the 2-(3-cyclopropylcarbonylamino-1,1-diphenylpropoxy)-acetaldehyde diethyl acetal.

reactant | 2-(3-amino-1,1-diphenylpropoxy)-acetaldehyde diethyl acetal | 3.4 g | C(C)OC(COC(CCN)(C1=CC=CC=C1)C1=CC=CC=C1)OCC | C21H29NO3
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
reactant | cyclopropane carboxylic acid chloride | 1.05 g | C1(CC1)C(=O)Cl | C4H5ClO
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-cyclopropylcarbonylamino-1,1-diphenylpropoxy)-acetaldehyde diethyl acetal | C(C)OC(COC(CCNC(=O)C1CC1)(C1=CC=CC=C1)C1=CC=CC=C1)OCC | C25H33NO4
